US20010027193A1
1-{(R*)-(4-Chlorophenyl)[4-methoxycarbonyl)-phenyl]methyl}azetidin-3-one, A isomer form, may be prepared by carrying out the procedure in the following manner: 0.90 cm3 of dimethyl sulfoxide is poured over 10 minutes into a solution, cooled to −60° C., of 0.55 cm3 of oxalyl chloride in 5 cm3 of dichloromethane. After stirring for 30 minutes at −60° C., a solution of 1.75 g of 1-{(R*)-(4-chlorophenyl)[4-(methoxycarbonyl)-phenyl]methyl}azetidin-3-ol, A isomer form, in 20 cm3 of dichloromethane is added to the mixture over 15 minutes. After stirring for 3 hours at −60° C., 2.7 cm3 of triethylamine are poured in and then the reaction medium is allowed to return to 0° C. 20 cm3 of water are then added, the mixture is stirred and then separated after settling. The organic phase is dried over magnesium sulfate, filtered and then concentrated to dryness at 50° C. under reduced pressure (2.7 kPa). The orange-colored oil obtained is chromatographed on a silica gel column (particle size 0.06-0.200 mm, diameter 2 cm, height 30 cm), under an argon pressure of 0.5 bar, eluting with a cyclohexane and ethyl acetate (75/25 by volume) mixture and collecting 30-cm3 fractions. Fractions 2 to 15 are combined and then concentrated to dryness under reduced pressure (2.7 kPa). 1.45 g of 1-{(R*)-(4-chlorophenyl)[4-(methoxycarbonyl)phenyl]methyl}azetidin-3-one, A isomer form, are obtained in the form of a yellow foam.

reactant | dimethyl sulfoxide | 0.90 cm3 | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.55 cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-{(R*)-(4-chlorophenyl)[4-(methoxycarbonyl)-phenyl]methyl}azetidin-3-ol | 1.75 g | ClC1=CC=C(C=C1)[C@H](N1CC(C1)O)C1=CC=C(C=C1)C(=O)OC | C18H18ClNO3
reactant | triethylamine | 2.7 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
solvent | water | 20 cm3 | O | H2O
product | 1-{(R*)-(4-chlorophenyl)[4-(methoxycarbonyl)phenyl]methyl}azetidin-3-one | 1.45 g | ClC1=CC=C(C=C1)[C@H](N1CC(C1)=O)C1=CC=C(C=C1)C(=O)OC | C18H16ClNO3
